US05506261
To a solution in THF (20(3 mL) of 2-thiopheneacetamide (4.04 g, 28.6 mmol), prepared as in step 1, was added P4S10 (12,7 g, 28.6 mmol), and the vigorously stirred reaction mixture was placed in a Bransonic 221 bath and sonicated with ultrasound for 30 min. The reaction mixture was filtered and the filtrate was concentrated in vacuo. The crude product was taken up in CH2Cl2 and decanted from the solid residue. Pure 2-thiophenethioacetamide (2.45 g, 54% yield) was obtained by chromatography on silica gel (CH2Cl2).

reactant | 2-thiopheneacetamide | 28.6 mmol, 4.04 g | S1C(=CC=C1)CC(=O)N | C6H7NOS
reactant | P4S10 | 28.6 mmol, 12,7 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | THF | C1CCOC1 | C4H8O
product | 2-thiophenethioacetamide | 2.45 g, 54% yield | C1=CSC(=C1)CC(=S)N | C6H7NS2
